US06184225B2
A mixture of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-nitroquinazoline hydrochloride (5.3 g, 13 mmol) and 10% palladium-on-charcoal catalyst (1 g) in ethanol (100 ml), 7M ethanolic hydrogen chloride (1.8 ml) and methanol (20 ml) was stirred under hydrogen at 1.7 atmospheres for 75 minutes. The catalyst was removed by filtration through diatomaceous earth and the filter pad thoroughly washed with methylene chloride, methanol and ether and the solvent was removed from the filtrate by evaporation to give 7-amino-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride (4.8 g, 97%) as a yellow solid.

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-nitroquinazoline hydrochloride | 13 mmol, 5.3 g | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)[N+](=O)[O-])C=C(C(=C1)C)OC(=O)OC
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrogen chloride | 7M, 1.8 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 7-amino-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride | 4.8 g, 97% | Cl.NC1=CC=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F | InChI=1S/C17H15FN4O3.ClH/c1-9-5-12(18)14(7-15(9)25-17(23)24-2)22-16-11-4-3-10(19)6-13(11)20-8-21-16;/h3-8H,19H2,1-2H3,(H,20,21,22);1H
